US06632826B1
A solution of 4-benzyl-5-(2-tert-butylcarbamoyl-5-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (980 mg, 1.96 mmol) in dry tetrahydrofuran was stirred at −78° C. under nitrogen during the addition of 1 M L-selectride solution in tetrahydrofuran (2.5 ml, 2.5 mmol). The resulting mixture was stirred at −78° C. for 30 minutes and then quenched by the addition of saturated aqueous ammonium chloride solution and allowed to warm to room temperature. The layers were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with 2N aqueous hydrogen chloride solution and brine, dried (anhydrous magnesium sulfate) and concentrated in vacuo. Purification by flash chromatography on silica gel (ethyl acetate/hexane: 7/3 to 1/0) provided of 4-benzyl-5-(2-tert-butylcarbamoyl-5-hydroxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (934 mg, 95%) as a white foam.

reactant | 4-benzyl-5-(2-tert-butylcarbamoyl-5-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.96 mmol, 980 mg | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CCC(C1)=O)C(NC(C)(C)C)=O)(C)C | C29H44N2O5
reactant | L-selectride | 1 M | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mmol, 2.5 ml | O1CCCC1 | C4H8O
product | 4-benzyl-5-(2-tert-butylcarbamoyl-5-hydroxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 934 mg, 95% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CCC(C1)O)C(NC(C)(C)C)=O)(C)C | C29H46N2O5
